US07368567B2
(R)-(−)Epichlorhydrin (1.93 g; 0.021 mol) was added to a suspension of 1-(5-benzenesulfonyl-2-hydroxy-phenyl)-ethanone (1.92 g; 0.007 mol) and potassium carbonate (1.44 g; 0.011 mol) in acetonitrile (5 mL). The mixture was heated under reflux for 18 hours. After cooling to ambient temperature, the mixture was diluted with ethyl acetate, filtered, washed with water and saturated sodium bicarbonate, dried (Na2SO4) and concentrated in vacuo. The crude material was purified by flash chromatography on silica gel (hexane-ethyl acetate; 7:3) to give 1-(5-benzene sulfonyl-2-(S)-oxiranylmethoxy-phenyl)-ethanone as a white solid (1.456 g; 63%). A sample was recrystallized from diethyl ether-hexane: M. p. 115.1-116.8° C. Similarly, but replacing (R)-(−)epichlorhydrin with (S)-(+)epichlorhydrin, 1-(5-benzene sulfonyl-2-(R)-oxiranylmethoxy-phenyl)-ethanone was prepared. M. p. 111.9-113.5° C. Similarly, but replacing 1-(5-benzenesulfonyl-2-hydroxy-phenyl)-ethanone with 1-[5-(3-fluoro-benzenesulfonyl)-2-hydroxy-phenyl]-ethanone, the above procedure gave 1-[5-(3-fluoro-benzenesulfonyl)-2-(S)-oxiranylmethoxy-phenyl]-ethanone: M. p. 112.7-114.9° C. Replacing 1-(5-benzenesulfonyl-2-hydroxy-phenyl)-ethanone with 1-[5-(3-Fluoro-benzenesulfonyl)-2-hydroxy-phenyl]-ethanone and replacing (R)-(−)epichlorhydrin with (S)-(+)epichlorhydrin gave 1-[5-(3-Fluoro-benzenesulfonyl)-2-(R)-oxiranylmethoxy-phenyl]-ethanone. M. p. 118.3-120.5° C.

reactant | 1-[5-(3-Fluoro-benzenesulfonyl)-2-hydroxy-phenyl]-ethanone | FC=1C=C(C=CC1)S(=O)(=O)C=1C=CC(=C(C1)C(C)=O)O | C14H11FO4S
reactant | (S)-(+)epichlorhydrin | C(Cl)[C@@H]1CO1 | C3H5ClO
product | 1-[5-(3-Fluoro-benzenesulfonyl)-2-(R)-oxiranylmethoxy-phenyl]-ethanone | FC=1C=C(C=CC1)S(=O)(=O)C=1C=CC(=C(C1)C(C)=O)OC[C@@H]1OC1 | C17H15FO5S
